US06660744B1
N-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-fluorophenyl}-N′-(3-methylphenyl)urea dihydrochloride salt (63 mg, 0.118 mmol) was dissolved in dichloromethane (7 mL) and N-ethyl-N-isopropylamine (0.113 mL), 2-[(tert-butoxycarbonyl)(methyl)amino]acetic acid (28mg, 0.147 mmol), 1-hydroxy-7-azabenzotriazole (16 mg, 0.118 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (28 mg, 0.147 mmol) were added to the reaction mixture. After 16 hours, the reaction mixture was diluted with dichloromethane (75 mL) then washed with water (75 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude product was isolated as a pale yellow solid (75 mg, 0.119 mmol). The crude tert-butyl N-{2-[4-(4-amino-3-{3-fluoro-4-[(3-toluidinocarbonyl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidino]-2-oxoethyl}-N-methylcarbamate (75 mg, 0.119 mmol) was dissolved in acetone (5 mL) then aqueous hydrochloric acid (6N, 1 mL) was slowly added. The reaction mixture was heated at 45° C. for 2.5 hours then concentrated under reduced pressure. The remaining residue was triturated with dichloromethane (25 mL) to yield a light yellow solid. Purification by RP-HPLC (Waters PrepLC 4000, flow rate: 10 mL/min. λ=254 nm Gradient: 10% to 30% acetonitrile/0.1M aqueous ammonium acetate gradient over 40 minutes; Deltapak C18, 300A, 15 μm, 40×100 mm column) afforded N-[4-(4-amino-1-{1-[2-(methylamino)acetyl]-4-piperidyl}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-fluorophenyl]-N′-(3-methylphenyl)urea as a white solid (40 mg, 0.075 mmol). HPLC-RT: 12.22 min. (flow rate: 1 mL/min λ=254 nm Gradient: 5% to 85% acetonitrile/0.1M aqueous ammonium acetate gradient over 20 min.; Deltapak C18, 300A, 5 μm, 150×3.9 mm column); m/z (MH+)=532.1.

reactant | tert-butyl N-{2-[4-(4-amino-3-{3-fluoro-4-[(3-toluidinocarbonyl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidino]-2-oxoethyl}-N-methylcarbamate | 0.119 mmol, 75 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)NC=2C=C(C=CC2)C)F)C2CCN(CC2)C(CN(C(OC(C)(C)C)=O)C)=O | C32H38FN9O4
reactant | hydrochloric acid | 6N, 1 mL | Cl | ClH
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | N-[4-(4-amino-1-{1-[2-(methylamino)acetyl]-4-piperidyl}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-fluorophenyl]-N′-(3-methylphenyl)urea | 0.075 mmol, 40 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)NC2=CC(=CC=C2)C)F)C2CCN(CC2)C(CNC)=O | C27H30FN9O2
